US09422246B2
In a 200 mL egg-plant shaped flask, 14.7 g (120 mmol) of 4-hydroxybenzaldehyde was mixed with 15.6 g (156 mmol) of hydantoin, 80 mL of water, and 14.4 g of 28% ammonia water, and the mixture was heated at 90° C. for 12 hours with stirring. After the liquid reaction mixture was cooled to room temperature, the precipitated crystals were collected by filtration. The crystals were then washed twice with water and twice with ethanol. The crystals were dried to give 20.3 g of 5-(4-hydroxybenzylidene)hydantoin. Subsequently, 18.8 g (92.2 mmol) of the product was added to a 500 mL egg-plant shaped flask and then dissolved in 180 mL of N,N-dimethylformamide. To the solution were added to 27.1 g (221 mmol) of ethyl chloroacetate and 30.5 g (221 mmol) of potassium carbonate. The mixture was heated at 120° C. for 2 hours with stirring. After the liquid reaction mixture was cooled to room temperature, the solvent was removed by distillation under reduced pressure. Water was added to the residue, and then the mixture was extracted three times with ethyl acetate. The organic layers were collected, washed twice with water and once with saturated brine, and then dried with sodium sulfate. The sodium sulfate was then removed by filtration. After the solvent was removed by distillation under reduced pressure, the resulting brown crystals were recrystallized with a mixed solvent of ethyl acetate and hexane. The crystals were then dried to give 9.96 g of 5-[4-(2-ethoxy-2-oxoethoxy)benzylidene]-3-(2-ethoxy-2-oxoethyl)hydantoin. In a 50 mL egg-plant shaped flask, 4.50 g (12.0 mmol) of the product was mixed with 7.57 g (72.0 mmol) of diethanolamine, and the mixture was heated at 120° C. for 1 hour with stirring. After the liquid reaction mixture was cooled to room temperature, the precipitated yellow crystals were recrystallized with a mixed solvent of ethanol and water. The crystals were then dried to give 4.46 g of compound 3 (yield: 18%).

reactant | 4-hydroxybenzaldehyde | 120 mmol, 14.7 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | hydantoin | 156 mmol, 15.6 g | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | ammonia water | 14.4 g | O.N
solvent | water | 80 mL | O | H2O
product | 5-(4-hydroxybenzylidene)hydantoin | 20.3 g | OC1=CC=C(C=C2C(NC(N2)=O)=O)C=C1 | C10H8N2O3
